US05770758
Example 7: Methyl 2-aminobenzothiazole-7-carboxylate
8.4 g of methyl 3-thioureido-benzoate are suspended in 120 ml of chlorobenzene, 2.2 ml of bromine in 30 ml of chlorobenzene are added at 0° C. in the course of 1 hour, while stirring as thoroughly as possible, and the mixture is then stirred to room temperature. It is then kept at 70° C. for 4 hours and subsequently cooled, a little diethyl ether is added and the precipitate is filtered off, mixed thoroughly with 70 ml of aqueous sodium bicarbonate solution, filtered off again and washed with water. 7.7 g (88%) of crude product of melting point 231°-232° C. result. HPLC analysis shows a content of more than 83% of the pure title compound, in addition to 8-18% of isomeric methyl 2-amino-benzothiazole-5-carboxylate. Suspension in and brief heating at 70° C. with ethyl acetate, cooling to 30° C. and filtration give the pure title compound of melting point >250° C. If the reaction is carried out in acetic acid (instead of in chlorobenzene), the content of the undesired isomeric methyl 2-amino-benzothiazole-5-carboxylate is only about 5%.

reactant | methyl 3-thioureido-benzoate | 8.4 g | N(C(=S)N)C=1C=C(C(=O)OC)C=CC1 | C9H10N2O2S
reactant | bromine | 2.2 ml | BrBr | Br2
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | chlorobenzene | 120 ml | ClC1=CC=CC=C1 | C6H5Cl
solvent | chlorobenzene | 30 ml | ClC1=CC=CC=C1 | C6H5Cl
product | Methyl 2-aminobenzothiazole-7-carboxylate | more than 83% | NC=1SC2=C(N1)C=CC=C2C(=O)OC | C9H8N2O2S
